US07632832B2
Step E. N-[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]-4-(2-oxo-4-pyridin-2-yl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxamide
Diisobutylaluminum hydride (1M, 0.108 mL, 0.108 mmol) was added to a solution of ethyl [({[1-({[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]amino}carbonyl)piperidin-4-yl]amino}carbonyl)amino](pyridin-2-yl)acetate (60 mg, 0.090 mmol) in toluene (4 mL) and dichloromethane (4 mL) at −78° C. and stirred for 30 min and then warmed to ambient temperature. After 4 h, the reaction was quenched with 1 N saturated potassium sodium tartrate solution and extracted with dichloromethane (2×). The combined organic extracts were dried over sodium sulfate, filtered, concentrated. Purification by silica gel chromatography (100% dichloromethane→10% methanol {1% ammonium hydroxide}/dichloromethane) gave the title compound. MS 604.2 (M+1)

reactant | Diisobutylaluminum hydride | 0.108 mmol, 1M, 0.108 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl [({[1-({[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]amino}carbonyl)piperidin-4-yl]amino}carbonyl)amino](pyridin-2-yl)acetate | 0.090 mmol, 60 mg | O=C1N(C2=C(C(=N[C@H]1NC(=O)N1CCC(CC1)NC(=O)NC(C(=O)OCC)C1=NC=CC=C1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F | C33H34F3N7O5
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]-4-(2-oxo-4-pyridin-2-yl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxamide | O=C1N(C2=C(C(=N[C@H]1NC(=O)N1CCC(CC1)N1C(NC(=C1)C1=NC=CC=C1)=O)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F | C31H28F3N7O3
